US06916839B2
187 ml (1.32 mol) of trifluoroacetic anhydride are added dropwise to a solution of 95.4 g (1.32 mol) of isopropenyl methyl ether in 265 ml of tert-butyl methyl ether and 107 ml (1.32 mol) of pyridine at a temperature of 0° C. to +5° C. After a reaction time of 30 min at +5° C., the reaction mixture is washed with 400 ml of water and 200 ml of a saturated Na2CO3 solution. The organic phase is removed and dried over MgSO4. The solution is cooled to a temperature of −20° C. and 70.4 ml (1.32 mol) of methylhydrazine are added dropwise thereto. The reaction mixture is allowed to gradually come to room temperature, the organic phase is dried over MgSO4, and the solution is subsequently concentrated under reduced pressure. Distillation of the oily residue results in 186 g (1.13 mol; 83%) of 1,5-dimethyl-3-trifluoromethyl-1H-pyrazole (b.p.: 71° C./12 mbar).

reactant | trifluoroacetic anhydride | 1.32 mol, 187 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | isopropenyl methyl ether | 1.32 mol, 95.4 g | COC(=C)C | C4H8O
reactant | pyridine | 1.32 mol, 107 ml | N1=CC=CC=C1 | C5H5N
reactant | methylhydrazine | 1.32 mol, 70.4 ml | CNN | CH6N2
solvent | tert-butyl methyl ether | 265 ml | COC(C)(C)C | C5H12O
product | 1,5-dimethyl-3-trifluoromethyl-1H-pyrazole | 1.13 mol, 186 g, 83% | CN1N=C(C=C1C)C(F)(F)F | C6H7F3N2
